US09233898B2
A mixture of 20 g of diethyl phenylmalonate, 6.6 g of sodium dihydrogen phosphate monohydrate and 140 ml of absolute ethanol was cooled to 15° C. after which 7.1 g of solid sodium borohydride was added. The reaction was completed by quenching the excess of sodium borohydride with 10% HCl solution and distilling the residual ethanol. 8 ml of NaOH 50% were added in order to obtain a pH of between about 8.0 to about 9.0. The obtained 2-phenyl-1,3-propanediol was then extracted into 400 ml of ethyl acetate. The organic layer was washed with 40 ml of water and filtered through alumina. The precipitate was crystallized from toluene following solvent removal, to obtain 8.9 g of 2-phenyl-1,3-propanediol with a yield of 69%.

reactant | diethyl phenylmalonate | 20 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | sodium dihydrogen phosphate monohydrate | 6.6 g | O.P(=O)(O)(O)[O-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | 2-phenyl-1,3-propanediol | 8.9 g, yield of 69% | C1(=CC=CC=C1)C(CO)CO | C9H12O2
